US06844351B1
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1 ethyl-propylamino)methyl-nicotinic acid methyl ester
A mixture of 4-chloro-6-methyl-2-(4-Chloro-2,6-dimethyl-phenoxy)-nicotinic acid methyl ester (77 mg, 0.226 mmol) and 1-ethyl-propyl-amine in DMSO was heated at 120° C. for 4 hr. The mixture was quenched with sat. ammonium chloride, water, brine and extracted with ethyl acetate. The organic layer was dried and concentrated to give 140 mg of yellow solid.

reactant | 4-chloro-6-methyl-2-(4-Chloro-2,6-dimethyl-phenoxy)-nicotinic acid methyl ester | 0.226 mmol, 77 mg | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)Cl)C)=O | C16H15Cl2NO3
reactant | 1-ethyl-propyl-amine | C(C)C(CC)N | C5H13N
reactant | DMSO | CS(=O)C | C2H6OS
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1 ethyl-propylamino)methyl-nicotinic acid methyl ester | 140 mg | COC(C1=C(N=CC=C1CNC(CC)CC)OC1=C(C=C(C=C1C)Cl)C)=O | C21H27ClN2O3
